Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
___: Placement of percutaneous cholecystostomy tube.

 
History of Present Illness:
Patient is a ___ male was presented in ___ with 
c/c abdominal pain on ___. CT abdomen revealed likely 
cholecystitis vs. cholangitis. Patient was started on 
Ceftriaxone and Flagyl and was transferred to ___ for further 
w/u and management. 
 
Past Medical History:
1. Hypertension
2. Hypercholesterolemia
3. Diabetes
4. Peripheral vascular disease
5. CVA with R hemiparesis and right facial palsy
6. Anemia
7. BPH
8. Hypomagnesemia
9. Right femur fracture
10. Depression  
 
Social History:
___
Family History:
Unknown
 
Physical Exam:
On Discharge: 
VS: T 97.4, HR 74, BP 124/66, RR 18, O2 Sat 94%
GEN: Awake and alert, Confused, NAD
HEENT: PERRL, Right gaze preference, right facial palsy
HEART: RRR, no m/r/g
LUNGS: Coarse b/l
ABD: Soft, nontender, right PCT w/dressing c/d/i
EXT: Right hemiparesis, left - normal muscle tone, follows all 
commands.

 
Pertinent Results:
___ 06:43AM   GLUCOSE-264* LACTATE-3.3* NA+-135 K+-4.5 
CL--93* TCO2-26
___ 06:30AM   GLUCOSE-263* UREA N-22* CREAT-0.8 SODIUM-133 
POTASSIUM-4.4 CHLORIDE-93* TOTAL CO2-27 ANION GAP-17
___ 06:30AM   ALT(SGPT)-76* AST(SGOT)-94* CK(CPK)-43* ALK 
PHOS-134* TOT BILI-1.8*
___:30AM   LIPASE-16
___ 06:30AM   WBC-28.2*# RBC-4.52*# HGB-13.9*# HCT-40.0# 
MCV-88 MCH-30.6 MCHC-34.7 RDW-13.3
___ 06:30AM   NEUTS-90.3* LYMPHS-4.1* MONOS-5.4 EOS-0.1 
BASOS-0.2
___ 06:30AM   PLT COUNT-316
___ 06:30AM   ___ PTT-26.9 ___
___ 07:15AM URINE  BLOOD-SM NITRITE-NEG PROTEIN-75 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-8* PH-7.0 LEUK-MOD

___ 8:41 am MRSA SCREEN      Source: Nasal swab. 
POSITIVE FOR METHICILLIN RESISTANT STAPH AUREUS.

___ 7:15 am URINE 
URINE CULTURE (Final ___: YEAST.    >100,000 
ORGANISMS/ML.. 

___  BEDSIDE SWALLOWING EVALUATION:
RECOMMENDATIONS:
1. PO diet: ground solids, nectar thick liquids
2. Meds crushed in puree
3. TID oral care
4. Assist with meals as needed to assist with self-feeding and
maintain standard aspiration precautions.

___ CHOLANGIOGRAM:
IMPRESSION: Persistent obstruction at the level of the cystic 
duct.  
Indwelling cholecystostomy tube in adequate position. 
Cholelithiasis. 

___ 06:00AM BLOOD ALT-24 AST-28 AlkPhos-93 TotBili-0.5
___ 06:00AM BLOOD WBC-10.1# RBC-2.99* Hgb-9.2* Hct-26.6* 
MCV-89 MCH-30.7 MCHC-34.5 RDW-13.3 Plt ___
___ 06:00AM BLOOD Glucose-81 UreaN-33* Creat-0.6 Na-136 
K-3.6 Cl-102 HCO3-26 AnGap-12
 
Brief Hospital Course:
The patient was admitted in SICU to the General Surgical Service 
for evaluation of the aforementioned problem. On ___, the 
patient underwent ___ guided placement of cholecystostomy tube 
with drainage catheter, which went well without complication 
(reader referred to the Procedure Note for details). Patient was 
continue on IV antibiotics with Flagyl, Levofloxacin and 
Fluconazole. Patient was continue to have IV fluid for hydration 
with boluses for low urine output and tachycardia. ON ___ NG 
tube was clamped and patient was advanced to clears with PO home 
meds.The patient was hemodynamically stable and was transferred 
on the floor. On ___ patient was neurologically stable, 
afebrile with stable vital signs. Swallowing evaluation was 
performed and patient was advanced to his baseline of soft 
solids and nectar thick liquids with meds crushed in puree once 
he is reunited with his dentures. Patient was ordered to have 
diagnostic cholangiogram. On ___ and ___ patient was afebrile, 
with stable vital signs, neurologically stable. On ___ 
patient underwent diagnostic cholangiogram, which revealed 
continued cystic duct obstruction, adequate position of the 
cholecystostomy tube within the gallbladder, and Cholelithiasis. 
On ___ patient was discharged back in Nursing Home with 
instruction to continue antibiotics for another 3 days. Patient 
will have a follow up appointment with Dr. ___ in one month 
after discharge.    
.
During this hospitalization, patient was neurologically on his 
baseline. He is awake and alert, baseline confused. He continue 
to have right sided hemiparesis s/t CVA, he follows simple 
commands on left side.  The patient received subcutaneous 
heparin and venodyne boots were used during this stay. The 
patient's blood sugar was monitored regularly throughout the 
stay; sliding scale insulin was administered when indicated. 
Labwork was routinely followed; electrolytes were repleted when 
indicated.
.
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a soft 
solids diet with nectar thick liquids, voiding without 
assistance, and pain was well controlled. The patient was 
discharged in his skilled nursing facility with detailed 
discharge and follow-up instructions.
 
Medications on Admission:
1. Novolin (80U qam, 22U qpm, novolin SS) 
2. Norvasc 5 mg PO qday
3. Lisinopril 10 mg PO qday
4. Metoprolol 25 mg Po bid
5. ASA 81 mg PO qday 
6. Seroquel 25 mg PO qhs and 25 mg PO prn
7. Depakoate 500 mg PO tid
8. Cymbalta 60 mg PO qday
9. Flomax 0.4 mg PO daily
10. Trazadone 25 mg PO prn
11. Percocet ___ mg PO prn
12. Combivent nebs prn
13. Senna 2 tabs PO qday
14. Colace 100 mg PO bid
15. MOM 30 ml PO prn
16. Bisacody l0 mg PR prn
17. Fleet enema prn
18. Tylenol prn, MVI
19. MVI qday 
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
3. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
5. Duloxetine 60 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
6. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO once a day.  
7. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO HS (at bedtime).  
8. Trazodone 50 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime) as 
needed for agitation.  
9. Oxycodone-Acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO every four (4) hours as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*
10. Ipratropium-Albuterol ___ mcg/Actuation Aerosol Sig: ___ 
Puffs Inhalation Q6H (every 6 hours) as needed for wheezing.  
11. Quetiapine 25 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
12. Quetiapine 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily) 
as needed for agitation.  
13. Divalproex ___ mg Capsule, Sprinkle Sig: Four (4) Capsule, 
Sprinkle PO TID (3 times a day).  
14. Flagyl 500 mg Tablet Sig: One (1) Tablet PO three times a 
day for 3 days.
Disp:*9 Tablet(s)* Refills:*0*
15. Levaquin 750 mg Tablet Sig: One (1) Tablet PO once a day for 
3 days.
Disp:*3 Tablet(s)* Refills:*0*
16. Miconazole Nitrate 2 % Powder Sig: One (1) Appl Topical PRN 
(as needed) as needed for groin irritation.  
17. Senna 8.6 mg Tablet Sig: One (1) Tablet PO at bedtime as 
needed for constipation.  
18. Novolin N 100 unit/mL Suspension Sig: Eighty (80) units
units Subcutaneous qam and 22 units SC qpm.  
19. Novolin R 100 unit/mL Solution Sig: ___ sliding scale units 
Injection sliding scale.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
1. Acute cholecystitis
2. Vascular dementia
3. Right hemiparesis 

 
Discharge Condition:
Mental Status: Confused - always
Level of Consciousness: Alert and interactive
Activity Status: Out of Bed with assistance to chair or 
wheelchair

 
Discharge Instructions:
General Discharge Instructions:
Please resume all regular home medications , unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed. Please get plenty of rest, 
continue to ambulate several times per day, and drink adequate 
amounts of fluids. Avoid lifting weights greater than ___ lbs 
until you follow-up with your surgeon, who will instruct you 
further regarding activity restrictions. Avoid driving or 
operating heavy machinery while taking pain medications. Please 
follow-up with your surgeon and Primary Care Provider (PCP) as 
advised.
Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.
.
General Drain Care:
*Please look at the site every day for signs of infection 
(increased redness or pain, swelling, odor, yellow or bloody 
discharge, warm to touch, fever).
*If the drain is connected to a collection container, please 
note color, consistency, and amount of fluid in the drain. Call 
the doctor, ___, or ___ nurse if the amount 
increases significantly or changes in character. Be sure to 
empty the drain frequently. Record the output, if instructed to 
do so.
*Wash the area gently with warm, soapy water or ___ strength 
hydrogen peroxide followed by saline rinse, pat dry, and place a 
drain sponge. Change daily and as needed.
*Keep the insertion site clean and dry otherwise.
*Avoid swimming, baths, hot tubs; do not submerge yourself in 
water.
*Make sure to keep the drain attached securely to your body to 
prevent pulling or dislocation.
 
Followup Instructions:
___